US05596006
2-Hydroxy-5-methoxycarbonyl-benzaldehyde oxime
A solution of 68.0 g (0.83 mol) of sodium acetate and 68.0 g (0.98 mol) of hydroxylamine hydrochloride in. 300 ml of water is added dropwise to a solution of 80.5 g (0.45 mol) of 2-hydroxy-5-methoxycarbonylbenzaldehyde in 300 ml of methanol and the mixture is stirred at 25° C. for 2 hours. The product which has precipitated is filtered off with suction, washed with water and dried in vacuo over phosphorus pentoxide to give 70.4 g of the title compound.

reactant | sodium acetate | 0.83 mol, 68.0 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.98 mol, 68.0 g | Cl.NO
reactant | water | 300 ml | O | H2O
reactant | 2-hydroxy-5-methoxycarbonylbenzaldehyde | 0.45 mol, 80.5 g | OC1=C(C=O)C=C(C=C1)C(=O)OC | C9H8O4
solvent | methanol | 300 ml | CO | CH4O
product | 2-Hydroxy-5-methoxycarbonyl-benzaldehyde oxime | 70.4 g, Yield: 80.7% | OC1=C(C=NO)C=C(C=C1)C(=O)OC | C9H9NO4
